US06509346B2
To a cold (0° C.) stirred solution of 1-t-butoxycarbonyl-4-oxohomopiperidine (1.42 g, 6.07 mmol) in anhydrous THF (50 mL) under argon was added dropwise 1.0 M 4-chlorophenylmagnesium bromide in diethyl ether (10 mL, 10 mmol). The reaction was warmed to RT for 2 hrs then quenched with sat'd aqueous NH4Cl (5 mL). The reaction mixture was extracted with EtOAc (2×50 mL), the organic layers combined and dried over Na2SO4. Pure 1-t-butoxycarbonyl-4-(4-chlorophenyl)-4-hydroxyhomopiperidine (2.1 g, 96%) was isolated via silica gel flash chromatography eluting with 50% EtOAc/hexane. 1H-NMR CDCl3 6: 1.43 (9H, s), 1.61-2.22 (6H, m), 3.21-3031 (2H, m), 3.48-3.82 (2H, m).

reactant | 1-t-butoxycarbonyl-4-oxohomopiperidine | 6.07 mmol, 1.42 g | C(C)(C)(C)OC(=O)N1CCC(CCC1)=O | C11H19NO3
reactant | 4-chlorophenylmagnesium bromide | 1.0 M | ClC1=CC=C(C=C1)[Mg]Br
reactant | diethyl ether | 10 mmol, 10 mL | C(C)OCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-t-butoxycarbonyl-4-(4-chlorophenyl)-4-hydroxyhomopiperidine | 2.1 g, 96% | C(C)(C)(C)OC(=O)N1CCC(CCC1)(O)C1=CC=C(C=C1)Cl | C17H24ClNO3
